US07745623B2
25a) 1-(4-Benzylpiperazin-1-yl)tetrahydropyrimidin-2(1H)-one
A solution of tert-butyl (3-oxopropyl)carbamate (4.2 g) and 4-benzylpiperazin-1-amine (4.6 g) in methanol (60 mL) was heated under reflux for 3 hours, and the solvent was distilled off under reduced pressure. After the residue was dissolved in methanol (60 mL), acetic acid (4.1 mL) and sodium triacetoxyborohydride (3.2 g) were added thereto, and the mixture was stirred at room temperature for 15 hours. The reaction mixture was concentrated under reduced pressure, made alkaline with 1N sodium hydroxide and potassium carbonate, and extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue obtained was dissolved in ethyl acetate (10 mL). and then a 4N hydrochloric acid-ethyl acetate solution (100 ml) was slowly added at 0° C., followed by stirring at room temperature for 5 hours. The precipitate was collected by filtration, dried, and then suspended in acetonitrile (200 mL). DBU (14.6 g) and CDI (7.8 g) were added thereto, and the mixture was heated under reflux for 15 hours. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with an aqueous sodium bicarbonate solution and extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate), and recrystallized from diethyl ether to obtain the title compound (3.1 g, 46%) as white crystals.

reactant | tert-butyl (3-oxopropyl)carbamate | 4.2 g | O=CCCNC(OC(C)(C)C)=O | C8H15NO3
reactant | 4-benzylpiperazin-1-amine | 4.6 g | C(C1=CC=CC=C1)N1CCN(CC1)N | C11H17N3
reactant | hydrochloric acid ethyl acetate | 4N, 100 ml | Cl.C(C)(=O)OCC
solvent | methanol | 60 mL | CO | CH4O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 1-(4-Benzylpiperazin-1-yl)tetrahydropyrimidin-2(1H)-one | 3.1 g, 46% | C(C1=CC=CC=C1)N1CCN(CC1)N1C(NCCC1)=O | C15H22N4O
